US04350634
Reaction of 3-[2-methylamino)ethyl]indole with acrylonitrile in dimethoxy-ethane yields the N-(2-cyanoethyl)-N-methyl-2-(3-indolyl)ethylamine which is worked up further directly.

reactant | indole | N1C=CC2=CC=CC=C12 | C8H7N
reactant | acrylonitrile | C(C=C)#N | C3H3N
solvent | dimethoxy-ethane | COC(C)OC | C4H10O2
product | N-(2-cyanoethyl)-N-methyl-2-(3-indolyl)ethylamine | C(#N)CCN(C)CCC1=CNC2=CC=CC=C12 | C14H17N3
